US05854179
i) N-tert-Butyl-2-ethylsulfonyl-5-formylaminobenzenesulfonamide
0.82 ml of formic acid is added dropwise to 1.85 ml of acetic anhydride. After the mixture has been stirred at 50° C. for 2 hours, a solution of 2.5 g of 5-amino-N-tert-butyl-2-ethylsulfonylbenzenesulfonamide in 10 ml of DMF is added dropwise at room temperature. This mixture is first stirred at 50° C. for 3 hours and then concentrated under a high vacuum. The residue is taken up in water and the mixture is extracted with ethyl acetate. After the organic phase been dried over magnesium sulfate, the solvent is distilled off. The residue (3.0 g) contains the desired product and is of adequate purity for further reactions.

reactant | formic acid | 0.82 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 1.85 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-amino-N-tert-butyl-2-ethylsulfonylbenzenesulfonamide | 2.5 g | NC=1C=CC(=C(C1)S(=O)(=O)NC(C)(C)C)S(=O)(=O)CC | C12H20N2O4S2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-tert-Butyl-2-ethylsulfonyl-5-formylaminobenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)NC=O)S(=O)(=O)CC | C13H20N2O5S2
